US07253192B2
A] 2-Methyl-2-{2-methyl-4-[5-(4-trifluoromethyl-phenyl)-pent-4-ynyloxy]-phenoxy}-propionic acid ethyl ester
In analogy to the procedure described in example 13B], 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid ethyl ester (example 13A]) and 1-iodo-4-trifluoromethyl-benzene gave the title compound as a light yellow viscous oil.

reactant | 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCCC#C)C)C)=O | C18H24O4
reactant | 1-iodo-4-trifluoromethyl-benzene | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
product | 2-Methyl-2-{2-methyl-4-[5-(4-trifluoromethyl-phenyl)-pent-4-ynyloxy]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCCC#CC1=CC=C(C=C1)C(F)(F)F)C)C)=O | C25H27F3O4
